US08008298B2
1-Phenyl-2-[5-(toluene-4-sulfonyl)-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-ethanone (100 mg, 0.18 mmol) was suspended in 4 ml of a 1:1 mixture of THF and methanol and 5N potassium hydroxide (0.180 ml, 0.9 mmol) was added dropwise. The reaction was heated at 40° C. for 2 hours. The solvents were evaporated using a rotary evaporator. Ethyl acetate and 1M hydrochloric acid were added to the residue and the layers were separated. The organic layer was washed with water, dried and concentrated. The crude reaction mixture was purified by preparative thin layer chromatography (50% ethyl acetate in hexanes) and flash chromatography to yield 4 mg of 1-phenyl-2-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-ethane-1,2-dione. MS: (M+H)+=418.

reactant | 1-Phenyl-2-[5-(toluene-4-sulfonyl)-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-ethanone | 0.18 mmol, 100 mg | C1(=CC=CC=C1)C(CC1=CN(C2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)S(=O)(=O)C2=CC=C(C=C2)C)=O | C30H27N3O6S
reactant | THF | C1CCOC1 | C4H8O
reactant | potassium hydroxide | 0.9 mmol, 5N, 0.180 ml | [OH-].[K+]
solvent | methanol | CO | CH4O
product | 1-phenyl-2-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-ethane-1,2-dione | 4 mg | C1(=CC=CC=C1)C(C(=O)C1=CNC2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)=O | C23H19N3O5
